US08470982B2
Preparation of 1-isopropyl-cyclohexanol (3b)
According to Example 2, i-PrMgCl (3.30 mL; 3.30 mmol; 1.10 equiv) was reacted with cyclohexanone (294 mg; 3.00 mmol) in the presence of LaCl3.2LiCl (0.33 M; 9.09 mL, 3.00 mmol, 1.00 equiv), the conversion was complete after 5 min (GC monitoring). After workup and careful evaporation of the solvents under reduced pressure, the desired product was obtained as colorless oil (418 mg, 98%). The analytical data were found to be in accordance with the literature data.

reactant | i-PrMgCl | 3.30 mmol, 3.30 mL, 1.10 equiv | C(C)(C)[Mg]Cl
reactant | cyclohexanone | 3.00 mmol, 294 mg | C1(CCCCC1)=O | C6H10O
product | 1-isopropyl-cyclohexanol | C(C)(C)C1(CCCCC1)O | C9H18O
